US06939883B2
Step 6B 1-(2,6-Difluorobenzyl)-2-methyl-3-[(2R)-Boc-amino-2-phenylethoxy]-pyridin-4-one:
Crude 2-methyl-3-[(2R)-Boc-amino-2-phenylethoxy]-4H-pyran-4-one (1.00 g, ˜2.90 mmol), 2,6-difluorobenzyl amine (700 μL, 5.8 mmol) and ethanol (3 mL) were combined and heated to 120° C. in a pressure vessel. After 16 h, the volatiles were removed in vacuo and the residue purified by column chromatography, eluting with EtOAc. The product was isolated as a white foam (204 mg, 0.43 mmol, 15%, assuming pure starting material). 1H NMR (CDCl3-300 MHz) δ 7.42-7.19 (m, 7H); 6.98 (t, J=8.1 Hz, 2H); 6.43 (d, J=7.8 Hz, 1H); 5.06 (s, 2H); 4.87-4.83 (m, 1H); 4.06 (dd, J1=9.9 Hz, J2=4.2 Hz, 1H); 3.93 (dd, J=9.9 Hz, J2=6.8 Hz, 1H); 2.34 (s, 3H); 1.42 (s, 9H); LRMS m/z 471.1 (M++1), 371.0 (M+−boc+1).

reactant | 2-methyl-3-[(2R)-Boc-amino-2-phenylethoxy]-4H-pyran-4-one | ˜2.90 mmol, 1.00 g | CC=1OC=CC(C1OC[C@@](C1=CC=CC=C1)(N)C(=O)OC(C)(C)C)=O | C19H23NO5
reactant | 2,6-difluorobenzyl amine | 5.8 mmol, 700 μL | FC1=C(CN)C(=CC=C1)F | C7H7F2N
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 1-(2,6-Difluorobenzyl)-2-methyl-3-[(2R)-Boc-amino-2-phenylethoxy]-pyridin-4-one | FC1=C(CN2C(=C(C(C=C2)=O)OC[C@@](C2=CC=CC=C2)(N)C(=O)OC(C)(C)C)C)C(=CC=C1)F | C26H28F2N2O4
